US06528525B1
(b) (R)-4-benzyl-3-[(2R,3R)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one
In a similar manner to that described in Reference example 29(b), a reaction was carried out using (R)-4-benzyl-3-[(4isopropylphenoxy)acetyl]oxazolidine-2-one (10.0 g), which is the product of Reference example 30(a), solution of dibutylboron triflate in dichloromethane (1M, 34.0 ml), triethylamine (5.11 ml) and 4-benzyloxybenzaldehyde (6.60 g) and the reaction mixture was treated to afford the desired compound (12.1 g) as a mass of foam.

reactant | (R)-4-benzyl-3-[(4isopropylphenoxy)acetyl]oxazolidine-2-one | 10.0 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(COC1=CC=C(C=C1)C(C)C)=O | C21H23NO4
reactant | dibutylboron triflate | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | 4-benzyloxybenzaldehyde | 6.60 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | dichloromethane | 1M, 34.0 ml | ClCCl | CH2Cl2
solvent | triethylamine | 5.11 ml | C(C)N(CC)CC | C6H15N
product | (R)-4-benzyl-3-[(2R,3R)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one | 12.1 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@H](O)C1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=C(C=C1)C(C)C)=O | C35H35NO6
